Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
iodine / shellfish derived
 
Attending: ___.
 
Chief Complaint:
Pancreatic cancer
 
Major Surgical or Invasive Procedure:
___:
1. Diagnostic laparoscopy.
2. Exploratory laparotomy.
3. Full mobilization of the right colon with transverse  
colectomy on bloc with standard pancreaticoduodenectomy.
4. Transverse colectomy with primary colocolostomy
5. Complex of dissection of the portal vein and splenic vein 
with complete mobilization including first jejunal for resection 
of mass.
6. Placement of gold fiducials for possible CyberKnife.
7. Harvest of pedicled falciform flap for protection of 
pancreatic anastomosis.
8. Placement of feeding jejunostomy.
9. Excision of suspicious nevi on abdomen.

 
History of Present Illness:
Mr. ___ is a ___ man with borderline resectable 
pancreatic adenocarcinoma s/p FOLFIRINOX x 2 cycles c/b 
malnutrition.  He presents for  
surgical resection.  
 
Past Medical History:
1. GERD
2. PUD c/b UGIB
3. Pancreatic cancer (s/p chemo, has bile duct stent)
4. R cerebral aneurysm (at junction of R ACA and common carotid)

 
Social History:
___
Family History:
HTN, mother with lung CA, grandmother with COPD

 
Physical Exam:
General:  cachectic, A&O, NAD  
HEENT:  MMM, non- icteric
Neck: supple, no JVD
CV:  RRR
PULM:  CTAB. Breathing comfortably at room air.
ABD:  BS+, soft, NTND, no masses or hepatosplenomegaly. Incision 
well healed. No sign of erythema or infection. JP drain with 
chylous output.
EXT:  warm well perfused, no edema

 
Pertinent Results:
___ 05:10AM BLOOD WBC-12.2* RBC-2.90* Hgb-8.4* Hct-26.4* 
MCV-91 MCH-29.0 MCHC-31.8* RDW-21.8* RDWSD-74.2* Plt ___
___ 05:10AM BLOOD Glucose-123* UreaN-19 Creat-0.8 Na-134 
K-4.0 Cl-100 HCO3-28 AnGap-10
___ 05:10AM BLOOD ALT-25 AST-20 AlkPhos-179* TotBili-0.3
___ 05:10AM BLOOD Calcium-8.2* Phos-3.5 Mg-1.9

Gram stain JP drain ___ negative.

Pathology pT3N0
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ for treatment of pancreatic cancer. On ___, the 
patient underwent pylorus-preserving pancreaticoduodenectomy 
(Whipple) and open cholecystectomy, which went well without 
complication (reader referred to the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor NPO with an NG tube, on IV fluids, 
with a foley catheter and a JP drain in place, and epidural 
catheter for pain control.  The patient was hemodynamically 
stable.
 The ___ hospital course was complicated by nausea, 
vomiting and tachycardia. He underwent an abdominal CT scan 
after steroid allergy protocol for contrast allergy, which 
showed no leak or collection. The rest of his hospital course 
was uneventful.  Post-operative pain was initially well 
controlled with an epidural catheter, which was converted to 
oral pain medication when tolerating clear liquids. The NG tube 
was discontinued on POD#2, and the foley catheter discontinued 
at midnight of POD#5. The patient subsequently voided without 
problem. The patient was started on sips of clears on POD#4, 
which was progressively advanced as tolerated to a regular diet 
by POD#10. He did experience some nausea and vomiting, which is 
why his diet was intermittently reduced to clears. He remained 
on TFs between 10 and 99cc during his stay. JP amylase was sent 
in the evening of  POD#6; the JP was left in place as output was 
high and will be discontinued at his follow up visit.
 During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. The patient's blood sugar was monitored 
regularly throughout the stay; sliding scale  insulin was 
administered when indicated.
 At the time of discharge on ___, the patient was doing 
well, afebrile with stable vital signs.  The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and pain was well controlled.  Staples were removed. 
The patient was discharged home with ___ and tube feed services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
dronabinol 2.5mg'', famotidine 20mg'', zenpep, lorazepam 
0.5-1''PRN, liquid morphine, Zofran 8mg'''PRN, pantoprazole 
40mg'', prochloperazine 10mg''''PRN, acetaminophen
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain/fever 
2. Docusate Sodium 100 mg PO BID 
3. Morphine Sulfate (Oral Soln.) ___ mg PO Q4H:PRN pain 
RX *morphine 10 mg/5 mL ___ mg by mouth Q4 Refills:*0
4. Pantoprazole 40 mg PO Q12H 
5. Dronabinol 2.5 mg PO BID 
6. Enoxaparin Sodium 40 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg sc Q12 Disp #*186 Syringe 
Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Locally advanced pancreatic cancer s/p neoadjuvant therapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for surgical 
resection of your pancreatic mass. You have done well in the 
post operative period and are now safe to return home to 
complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns.
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
.
J-tube: Please evaluate for signs and symptoms of infection. 
Flush with 30 cc of water Q8H and before and after every use. 
Keep securely attached to your body to prevent dislocation. 
 

 
Followup Instructions:
___